US06133319
c) Preparation of 1-methyl-2-benzoxypropylamine
To a solution of 1-methyl-2-benzoxypropylazide (300 mL, 1.46 mmol) in ether (10 mL), lithium aluminum hydride (167 mg, 4.38 mmol) was added. The reaction mixture was stirred at room temperature for 1 hours. Then 0.17 mL of H2O, 0.2 mL of 15% NaOH and 0.42 mL of H2O were added. The solid was filtered. The liquid was concentrated under reduced pressure to give desired product (240 mg, 92%). EI-MS m/z 180 (M+).

reactant | 1-methyl-2-benzoxypropylazide | 1.46 mmol, 300 mL | CC(C(C)OCC1=CC=CC=C1)N=[N+]=[N-] | C11H15N3O
reactant | lithium aluminum hydride | 4.38 mmol, 167 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | H2O | 0.17 mL | O | H2O
reactant | NaOH | 0.2 mL | [OH-].[Na+]
reactant | H2O | 0.42 mL | O | H2O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 1-methyl-2-benzoxypropylamine | 240 mg, 92% | CC(C(C)OCC1=CC=CC=C1)N | C11H17NO
